### PR TITLE
[Merged by Bors] - feat(MvPowerSeries/Ideal): kernel of map equals map `C` of kernel

### PR DESCRIPTION
**Pull request by WenrongZou**
In this PR, we prove that given a ring homomorphism `f : R → S`, suppose that kernel of `f` is finitely generated, then kernel of `MvPowerSeries.map f` equals `Ideal.map MvPowerSeries.C (RingHom.ker f)`.  (See `ker_map_of_FG`).

This is `MvPowerSeries` version of [`MvPolynomial.ker_map`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Polynomial/Basic.html#MvPolynomial.ker_map)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/MvPowerSeries/Ideal.lean [hunk 1]
```diff
@@ -0,0 +1,92 @@
...
+coefficients are in `I`. -/
+theorem mem_map_C_iff_of_FG (hI : I.FG) :
+    f ∈ I.map C ↔ ∀ m, f.coeff m ∈ I :=
+  ⟨mem_map_C_imp, mem_map_C_of_forall_coeff_mem hI⟩
+
+theorem ker_map_of_FG (f : R →+* S) (hf : (RingHom.ker f).FG) :
+    RingHom.ker (map f (σ := σ)) = Ideal.map C (RingHom.ker f) := by
+  ext
+  rw [mem_map_C_iff_of_FG hf, RingHom.mem_ker, MvPowerSeries.ext_iff]
+  simp_rw [coeff_map, coeff_zero, RingHom.mem_ker]
```
Comment (CoolRmal) [inline Mathlib/RingTheory/MvPowerSeries/Ideal.lean]:
```suggestion
  ext; simp [mem_map_C_iff_of_FG hf, MvPowerSeries.ext_iff]
```
Maybe better?

File: Mathlib/RingTheory/MvPowerSeries/Ideal.lean [hunk 2]
```diff
@@ -0,0 +1,92 @@
...
+    obtain ⟨x, hx⟩ := (Set.mem_image _ _ _).mp hf
+    rw [← hx.right, coeff_C]
+    by_cases h : n = 0
+    · simpa [h] using hx.left
+    · simp [if_neg h]
+  · simp
+  · exact fun f g _ _ hf hg n => by simp [I.add_mem (hf n) (hg n)]
+  · refine fun f g _ hg n => ?_
+    rw [smul_eq_mul, coeff_mul]
+    exact I.sum_mem fun c _ => I.mul_mem_left (f.coeff c.fst) (hg c.snd)
```
Comment (CoolRmal) [inline Mathlib/RingTheory/MvPowerSeries/Ideal.lean]:
```suggestion
  refine Submodule.span_induction (fun f hf n => ?_) ?_ ?_ (fun f g _ hg n => ?_) h
  · obtain ⟨x, hx⟩ := (Set.mem_image _ _ _).mp hf
    rw [← hx.right, coeff_C]
    by_cases h : n = 0
    <;> simp_all
  · simp
  · exact fun f g _ _ hf hg n => by simp [I.add_mem (hf n) (hg n)]
  · exact I.sum_mem fun c _ => I.mul_mem_left (f.coeff c.fst) (hg c.snd)
```

Maybe better?

**Review by CoolRmal — COMMENTED** [review]
Some golf.

File: Mathlib/RingTheory/MvPowerSeries/Ideal.lean (hunk 2 above)
Comment (WenrongZou) [reply Mathlib/RingTheory/MvPowerSeries/Ideal.lean]: Thanks!

**Comment by WenrongZou** [comment]
awaiting-author

**Comment by WenrongZou** [comment]
t-algebra

File: Mathlib/RingTheory/MvPowerSeries/Ideal.lean [hunk 3]
```diff
@@ -0,0 +1,86 @@
...
+-/
+
+
+@[expose] public section
+
+namespace MvPowerSeries
+
+variable {R S σ : Type*} [CommRing R] [CommRing S]
+
+section
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPowerSeries/Ideal.lean]: This section seems unnecessary

File: Mathlib/RingTheory/MvPowerSeries/Ideal.lean [hunk 4]
```diff
@@ -0,0 +1,86 @@
...
+    exact ⟨fun a m => r m a, hr⟩
+  have h_sum : f = ∑ a ∈ S.attach, g a * MvPowerSeries.C a.val := by
+    simp [MvPowerSeries.ext_iff, hg]
+  rw [← hS, h_sum]
+  exact sum_mem _ fun a _ => mul_mem_left _ _ (mem_map_of_mem _ (subset_span a.2))
+
+/-- Suppose that `I` is finitely generated, then the push-forward of an ideal `I` of `R` to
+`MvPowerSeries σ R` via inclusion is exactly the set of power series whose
+coefficients are in `I`. -/
+theorem mem_map_C_iff_of_FG (hI : I.FG) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPowerSeries/Ideal.lean]: `of_fg` rather than `of_FG` (three times)

File: Mathlib/RingTheory/MvPowerSeries/Ideal.lean [hunk 5]
```diff
@@ -0,0 +1,86 @@
...
+open Ideal
+
+variable {S₁ S₂ : Type*} [CommRing S₁] [CommRing S₂] [Algebra R S₁] [Algebra R S₂]
+  {I : Ideal R} {f : MvPowerSeries σ R}
+
+theorem mem_map_C_imp (h : f ∈ I.map C) : ∀ m : σ →₀ ℕ, f.coeff m ∈ I := by
+  classical
+  refine Submodule.span_induction (fun f hf n => ?_) ?_ ?_ (fun f g _ hg n => ?_) h
+  · obtain ⟨x, hx⟩ := (Set.mem_image _ _ _).mp hf
+    rw [← hx.right, coeff_C]
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPowerSeries/Ideal.lean]: Probably
```suggestion
  · obtain ⟨x, _, hx⟩ := (Set.mem_image _ _ _).mp hf
    rw [← hx, coeff_C]
```
works?

File: Mathlib/RingTheory/MvPowerSeries/Ideal.lean [hunk 6]
```diff
@@ -0,0 +1,86 @@
...
+variable {R S σ : Type*} [CommRing R] [CommRing S]
+
+section
+
+open Ideal
+
+variable {S₁ S₂ : Type*} [CommRing S₁] [CommRing S₂] [Algebra R S₁] [Algebra R S₂]
+  {I : Ideal R} {f : MvPowerSeries σ R}
+
+theorem mem_map_C_imp (h : f ∈ I.map C) : ∀ m : σ →₀ ℕ, f.coeff m ∈ I := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPowerSeries/Ideal.lean]: I'm not sure using `imp` in this way is typical. How about `coeff_mem_of_mem_map_C`?

File: Mathlib/RingTheory/MvPowerSeries/Ideal.lean [hunk 7]
```diff
@@ -0,0 +1,86 @@
...
+  · simp
+  · exact fun f g _ _ hf hg n => by simp [I.add_mem (hf n) (hg n)]
+  · exact I.sum_mem fun c _ => I.mul_mem_left (f.coeff c.fst) (hg c.snd)
+
+/-- If every coefficient of `f` lies in `I`, and `I` is finitely generated,
+then `f ∈ I.map C`. -/
+theorem mem_map_C_of_forall_coeff_mem (hI : I.FG) (hf : ∀ m : σ →₀ ℕ, f.coeff m ∈ I) :
+    f ∈ I.map C := by
+  obtain ⟨S, hS⟩ := hI
+  have (m : σ →₀ ℕ) : ∃ r : S → R, (coeff m) f = ∑ a ∈ S.attach, r a * a := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPowerSeries/Ideal.lean]: `(coeff m) f` may be how it's pretty-printed, but we don't need the extra parentheses. Though `f.coeff m` is probably better still. A few times more below.

**Review by Ruben-VandeVelde — APPROVED** [review]
Sorry for the long wait here. This seems sensible to me, but I have a few comments on the code below.

maintainer delegate

File: Mathlib/RingTheory/MvPowerSeries/Ideal.lean (hunk 7 above)
Comment (WenrongZou) [reply Mathlib/RingTheory/MvPowerSeries/Ideal.lean]: Thanks! I prefer to use doc notation (`f.coeff m`) version. I changed the rest.

**Comment by WenrongZou** [comment]
Thanks for your reviews!

**Comment by riccardobrasca** [comment]
Can you please clarify the PR description? I find it a bit difficult to read.

**Comment by WenrongZou** [comment]
> Can you please clarify the PR description? I find it a bit difficult to read.

Thanks! I updated the PR description.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
